US05284647
a) N3 (2,6-dioxomorpholinoethyl)-N6 -(ethoxycarbonylmethyl)-3,6-diazaoctanedioic acid
A suspension of 21.2 g (50 mmol) of N3,N6 -bis-(carboxymethyl)-N9 -(ethoxycarbonylmethyl)-3,6,9-triazaundecanedioic acid (J. Pharm. Sci. 68, 1979, 194) in 250 ml of acetic anhydride is stirred, after the addition of 42.2 ml of pyridine, for three days at room temperature. Then the precipitate is suctioned off, it is washed three times, each time with 50 ml of acetic anhydride and then stirred up for several hours with absolute diethylether. After suctioning off, washing with absolute diethylether and drying in a vacuum at 40° C., 18.0 g (89% of theory) of a white powder with a melting point of 195°-196° C. is obtained.

reactant | N3,N6 -bis-(carboxymethyl)-N9 -(ethoxycarbonylmethyl)-3,6,9-triazaundecanedioic acid | 50 mmol, 21.2 g | C(=O)(O)CN(CC(=O)O)CCN(CCN(CC(=O)O)CC(=O)OCC)CC(=O)O | C16H27N3O10
reactant | pyridine | 42.2 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 250 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (2,6-dioxomorpholinoethyl)-N6 -(ethoxycarbonylmethyl)-3,6-diazaoctanedioic acid | O=C1OC(CN(C1)CCC(C(=O)O)NCCN(CC(=O)O)CC(=O)OCC)=O | C16H25N3O9
